US06002008
4-(3,4-Dichlorophenylmethylamino)-6,7-diethoxy-3-quinolinecarbonitrile
In the manner of Example 61 reaction of 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile with 3,4-dichlorobenzylamine gave the tide compound as a tan solid, mp 163-165° C.

reactant | 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
product | 4-(3,4-Dichlorophenylmethylamino)-6,7-diethoxy-3-quinolinecarbonitrile | ClC=1C=C(C=CC1Cl)CNC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C21H19Cl2N3O2
